US04474792
A mixture of 4.2 g. (0.025 mole) of 4-hydroxy-2-methoxybenzoic acid, 7 g. of potassium carbonate, and 10 g. of n-butyl bromide in 100 ml. of N,N-dimethylformamide was heated at 70° C. for 24 hours. The mixture was cooled, diluted with water and extracted with diethyl ether. The ether extracts were washed with dilute sodium hydroxide solution, then washed with water and dried. The ether was evaporated and the residue heated at reflux for 4 hours in an equivolume mixture of 10 percent sodium hydroxide solution and ethanol. Evaporation followed by acidification provided the desired 4-(n-butoxy)-2-methoxy-benzoic acid (m.p. 94°-96° C. after recrystallizaiton from cyclohexane).

reactant | 4-hydroxy-2-methoxybenzoic acid | 0.025 mole | OC1=CC(=C(C(=O)O)C=C1)OC | C8H8O4
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | n-butyl bromide | C(CCC)Br | C4H9Br
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-(n-butoxy)-2-methoxy-benzoic acid | C(CCC)OC1=CC(=C(C(=O)O)C=C1)OC | C12H16O4
